US04474809
[p-(Cyclohexylmethoxy)phenyl]glyoxal hemihydrate
A mixture of 12.0 g of 4'-(cyclohexylmethoxy)acetophenone, 5.8 g of selenium dioxide, 1.4 ml of water and 70 ml of p-dioxane was refluxed with stirring at 120° C. for 18.5 hours, cooled and filtered through diatomaceous earth, washing with p-dioxane. The combined filtrate and wash was poured into 200 ml of water cooled to 8° C. The yellow solid was collected and dried. An 8.1 g portion of sodium bisulfite was dissolved in 500 ml of water. To this was added a solution of the above solid in a mixture of 300 ml of ethanol and 100 ml of p-dioxane. The resulting mixture was filtered and the filtrate stored at 0° C. for 48 hours. The resulting solid was collected, washed twice with water, p-dioxane and absolute ethanol and then dried. This solid was added to 535 ml of 0.5N hydrochloric acid and heated with stirring at 75° C. for 8 minutes and then cooled to 10° C. The solid was collected, dissolved in hot p-dioxane, filtered and 20 ml of water added to the filtrate. The filtrate was cooled to 0° C., giving the desired product as a white solid, m.p. 118°-121° C.

reactant | 4'-(cyclohexylmethoxy)acetophenone | 12.0 g | C1(CCCCC1)COC1=CC=C(C=C1)C(C)=O | C15H20O2
reactant | selenium dioxide | 5.8 g | [Se](=O)=O | O2Se
reactant | water | 1.4 ml | O | H2O
solvent | p-dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | [p-(Cyclohexylmethoxy)phenyl]glyoxal hemihydrate | O.C1(CCCCC1)COC1=CC=C(C=C1)C(=O)C=O.C1(CCCCC1)COC1=CC=C(C=C1)C(=O)C=O | InChI=1S/2C15H18O3.H2O/c2*16-10-15(17)13-6-8-14(9-7-13)18-11-12-4-2-1-3-5-12;/h2*6-10,12H,1-5,11H2;1H2
